US05753664
1-[4-(2,4-Dichlorobenzoyl)benzyl]-2,3,5-trimethyl-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one
A solution of 2,3,5-trimethyl-1H-pyrrolo[2,3-d]-pyridazin-4(5H)-one (354 mg) in DMF (30 ml) was dripped into a suspension of 60% sodium hydride-oil (96 mg) in DMF (8 ml) on an ice-water bath. The mixture was stirred at room temperature for 1 hour, after which a solution of 4-(2,4-dichlorobenzoyl)benzyl bromide (757 mg) in DMF (15 ml) was added and the mixture was further stirred at room temperature for 1.5 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer: n-hexane-ethyl acetate 1:1) to provide the title compound as light-yellow powder (612 mg, yield 70%).

reactant | 2,3,5-trimethyl-1H-pyrrolo[2,3-d]-pyridazin-4(5H)-one | 354 mg | CC1=C(C2=C(C=NN(C2=O)C)N1)C | C9H11N3O
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 4-(2,4-dichlorobenzoyl)benzyl bromide | 757 mg | ClC1=C(C(=O)C2=CC=C(CBr)C=C2)C=CC(=C1)Cl | C14H9BrCl2O
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-[4-(2,4-Dichlorobenzoyl)benzyl]-2,3,5-trimethyl-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one | 612 mg, yield 70% | ClC1=C(C(=O)C2=CC=C(CN3C(=C(C4=C3C=NN(C4=O)C)C)C)C=C2)C=CC(=C1)Cl | C23H19Cl2N3O2
